US04010177
In the manner given in Preparation 1, a solution of 1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepine-2-thione and (diethylamino)acetic acid hydrazide in n-butyl alcohol is reacted to give 8-chloro-1-[(diethyl amino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, which is recrystallized from ethyl acetateSkellysolve B hexanes and has a melting point of 131.5°-132.5° C. Anal. calcd. for C21H22ClN5 : C, 66.39; H, 5.84; Cl, 9.33; N, 18.44. Found: C, 66.20; H, 6.06; Cl, 9.29; N, 18.55. Preparation 8 8-Nitro-1-[(diethylamino)methyl]-6-phenyl4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 1,3-dihydro-7-chloro-5-phenyl-2H-1,4-benzodiazepine-2-thione | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | (diethylamino)acetic acid hydrazide | C(C)N(CC)CC(=O)NN | C6H15N3O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 8-chloro-1-[(diethyl amino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(CC)CC)C3=CC=CC=C3)C1 | C21H22ClN5
